US08859596B2
(R)-5-tert-butyl-2-((tetrahydrofuran-2-yl)methyl)isoxazol-3(2H)-imine
A mixture of 5-tert-butylisoxazol-3-amine (1 g, 7.1 mmol) and a solution of Example 39A (1.7 g, 6.8 mmol) in 1.5 mL DMF was warmed to 85° C. and was allowed to stir for 70 hours at 85° C. The mixture was cooled to ambient temperature, concentrated under reduced pressure. The residue was purified by column chromatography (SiO2, 50% hexanes in EtOAc then 10% CH3OH in EtOAc) to afford the title compound (0.48 g, 1.2 mmol, 17% yield). MS (DCI/NH3) m/z 225 (M+H)+.

reactant | 5-tert-butylisoxazol-3-amine | 7.1 mmol, 1 g | C(C)(C)(C)C1=CC(=NO1)N | C7H12N2O
reactant | CH3OH | CO | CH4O
reactant | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (R)-5-tert-butyl-2-((tetrahydrofuran-2-yl)methyl)isoxazol-3(2H)-imine | 1.2 mmol, 0.48 g, 17% yield | C(C)(C)(C)C1=CC(N(O1)C[C@@H]1OCCC1)=N | C12H20N2O2
